### PR TITLE
[Merged by Bors] - feat: generalize `IsSuccLimit.bot_lt` to preorders

### PR DESCRIPTION
**Pull request by vihdzp**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/BoundedOrder/Basic.lean [hunk 1]
```diff
@@ -122,6 +122,15 @@ theorem ne_top_of_lt (h : a < b) : a ≠ ⊤ :=
 
 @[to_dual bot_lt] alias LT.lt.lt_top := lt_top_of_lt
 
+@[to_dual bot_lt_iff_not_le_bot]
+theorem lt_top_iff_not_top_le : a < ⊤ ↔ ¬ ⊤ ≤ a := by
+  simp [lt_iff_le_not_ge]
+
+@[to_dual bot_lt_of_not_isMin]
+theorem lt_top_of_not_isMax (h : ¬ IsMax a) : a < ⊤ := by
```
Comment (YaelDillies) [inline Mathlib/Order/BoundedOrder/Basic.lean]: Isn't this an iff?

Comment (vihdzp) [reply Mathlib/Order/BoundedOrder/Basic.lean]: It is :)

**Review by artie2000 — APPROVED** [review]

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Review by bryangingechen — APPROVED** [review]
Thanks!
bors r+
